US08541411B2
Preparation of 1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-4-(1H-1,2,4-triazol-3-yl)-2-(trifluoromethyl)-1H-benzimidazole
A mixture of 1-{[2-Methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxamide, prepared as described in Example 54 (250 mg, 0.514 mmol) and N,N-dimethylformamide dimethyl acetal (7 mL, 52.3 mmol) was stirred at 105° C. for 1.5 hour. The reaction mixture was concentrated under reduced pressure and the residue was suspended in Acetic Acid (5 mL). After the addition of hydrazine monohydrate (0.113 mL, 3.60 mmol) the reaction mixture was heated at 100° C. for 1 hour. The solvent was concentrated under vacuum, the residue was azeotroped with toluene (2×), and the residue was dissolved in DMSO and purified by reverse phase-HPLC (20-95% AcCN in water plus 0.1% TFA). The fractions containing product were combined, neutralized by the addition of aq NaHCO3 sat sol and the organic evaporated. The precipitate in the aqueous residue was collected by filtration, washed with water and dried in a vacuum oven (45° C.) overnight to give the desired product (157.1 mg, 0.302 mmol, 58.7% yield) as a white powder. 1H NMR (400 MHz, CHLOROFORM-) δ ppm 13.05 (br. s., 1H), 8.12 (s, 1H), 8.00 (d, J=2.27 Hz, 1H), 7.63 (d, J=7.83 Hz, 1H), 7.18 (t, J=7.83 Hz, 1H), 6.56 (d, J=7.83 Hz, 1H), 6.51 (d, J=2.27 Hz, 1H), 5.54 (s, 2H), 3.71-3.95 (m, 4H), 3.09-3.30 (m, 4H), 2.57 (s, 3H). MS (ES+) m/e 511[M+H]+.

reactant | 1-{[2-Methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxamide | CC1=C(C=CC=C1C(F)(F)F)CN1C(=NC2=C1C=C(C=C2C(=O)N)N2CCOCC2)C(F)(F)F | C22H20F6N4O2
reactant | N,N-dimethylformamide dimethyl acetal | 52.3 mmol, 7 mL | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine monohydrate | 3.60 mmol, 0.113 mL | O.NN
product | 1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-4-(1H-1,2,4-triazol-3-yl)-2-(trifluoromethyl)-1H-benzimidazole | 0.302 mmol, 157.1 mg, 58.7% yield | CC1=C(C=CC=C1C(F)(F)F)CN1C(=NC2=C1C=C(C=C2C2=NNC=N2)N2CCOCC2)C(F)(F)F | C23H20F6N6O
